US04171369
(3aRS,4SR,9aSR)-3a,4,9,9a-tetrahydro-4-phenyl-benz[f]isoindoline-2-propionic acid methyl ester [variant of process (a)]
A mixture of 15 g of (3aRS,4SR,9aSR)-3a,4,9,9a-tetrahydro-4-phenyl-benz[f]isoindoline, 5.9 g of acrylic acid methyl ester and 1 cc of a 40% solution of benzyl trimethyl ammonium hydroxide in methanol is stirred at 50° for 4 hours and is then concentrated by evaporation. The evaporation residue is reduced to a slime with silica gel in benzene/ethyl acetate (9:1) and filtration is effected. Upon concentrating the filtrate by evaporation, the title compound, having a M.P. of 75°-76° (after crystallization from ether/petroleum ether), is obtained.

reactant | (3aRS,4SR,9aSR)-3a,4,9,9a-tetrahydro-4-phenyl-benz[f]isoindoline | 15 g | C1(=CC=CC=C1)C1C2=C(CC3CNCC13)C=CC=C2 | C18H19N
reactant | acrylic acid methyl ester | 5.9 g | COC(C=C)=O | C4H6O2
reactant | benzyl trimethyl ammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | methanol | CO | CH4O
product | (3aRS,4SR,9aSR)-3a,4,9,9a-tetrahydro-4-phenyl-benz[f]isoindoline-2-propionic acid methyl ester | COC(CCN1CC2C(C3=C(CC2C1)C=CC=C3)C3=CC=CC=C3)=O | C22H25NO2
